US08431581B2
Preparation of 4-Fluoro-2-(morpholine-4-sulfonyl)-phenol
To a solution of 4-(5-fluoro-2-methoxyphenylsulfonyl)morpholine (0.5 g 1.8 mmol) in CH2Cl2 (10 ml) was added dropwise a solution of tribromoborane (0.593 mg 2.36 mmol) in CH2Cl2 (20 ml) at 0° C. The mixture was stirred at room temperature for 1 h, after which methanol (10 ml) was added to quench the reaction. The solvent was evaporated under reduced pressure and ethyl acetate (30 ml) was added, washed with water and then brine, dried and concentrated into dryness to give the product (427 mg, 90% yield).

reactant | 4-(5-fluoro-2-methoxyphenylsulfonyl)morpholine | 1.8 mmol, 0.5 g | FC=1C=CC(=C(C1)S(=O)(=O)N1CCOCC1)OC | C11H14FNO4S
reactant | tribromoborane | 2.36 mmol, 0.593 mg | BrB(Br)Br | BBr3
reactant | methanol | 10 ml | CO | CH4O
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-Fluoro-2-(morpholine-4-sulfonyl)-phenol | 427 mg, 90% yield | FC1=CC(=C(C=C1)O)S(=O)(=O)N1CCOCC1 | C10H12FNO4S
